US07741327B2
A mixture of (L)-leucine methyl ester hydrochloride (0.64 g, 3.56 mmol) in acetonitrile (8.9 mL) was treated with N,N-diisopropylethylamine (0.57 mL, 3.49 mmol). After addition was complete, the mixture was stirred at 60° C. for 1 h. At this time, the reaction was cooled to 25° C., treated with N,N-diisopropylethylamine (0.57 mL, 3.49 mmol) and acetonitrile (8.9 mL) and then heated to 80° C. Upon reaching 80° C., the reaction was treated with a solution of 4-bromo-3-(4-methoxy-phenoxy)-but-2-enoic acid ethyl ester (1.02 g, 3.23 mmol) in acetonitrile (8.09 mL). After the addition was complete, the reaction mixture was heated to 100° C. where it stirred overnight. At this time, the reaction mixture was cooled to 25° C. and was concentrated in vacuo. The residue was diluted with dichloromethane (75 mL) and was washed with a 2N aqueous hydrochloric acid solution (1×100 mL), a saturated aqueous sodium bicarbonate solution (1×100 mL), a saturated aqueous sodium chloride solution (1×100 mL), dried over sodium sulfate, filtered and concentrated in vacuo. Purification by Analogix flash chromatography (40 g, 20-30% ethyl acetate/hexanes) afforded (S)-2-[3-ethoxycarbonyl-2-(4-methoxy-phenoxy)-allylamino]-4-methyl-pentanoic acid methyl ester (0.84 g, 68%) as a yellow oil: 1H NMR (300 MHz, DMSO-d6) δ ppm 0.86 (d, J=6.3 Hz, 3H), 0.88 (d, J=6.3 Hz, 3H), 1.30-1.50 (m, 2H), 1.63-1.81 (m, 1H), 3.60 (s, 3H), 3.77 (s, 3H), 3.88 (dd, J=6.5, 3.2 Hz, 1H), 3.96 (d, J=6.9 Hz, 1H), 4.01 (d, J=6.9 Hz, 1H), 4.61 (s, 1H), 7.02 (s, 4H).

reactant | (L)-leucine methyl ester hydrochloride | 3.56 mmol, 0.64 g | Cl.COC([C@@H](N)CC(C)C)=O
reactant | N,N-diisopropylethylamine | 3.49 mmol, 0.57 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-diisopropylethylamine | 3.49 mmol, 0.57 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-bromo-3-(4-methoxy-phenoxy)-but-2-enoic acid ethyl ester | 3.23 mmol, 1.02 g | C(C)OC(C=C(CBr)OC1=CC=C(C=C1)OC)=O | C13H15BrO4
solvent | acetonitrile | 8.9 mL | C(C)#N | C2H3N
solvent | acetonitrile | 8.09 mL | C(C)#N | C2H3N
solvent | acetonitrile | 8.9 mL | C(C)#N | C2H3N
product | (S)-2-[3-ethoxycarbonyl-2-(4-methoxy-phenoxy)-allylamino]-4-methyl-pentanoic acid methyl ester | 0.84 g, 68% | COC([C@H](CC(C)C)NCC(=CC(=O)OCC)OC1=CC=C(C=C1)OC)=O | C20H29NO6
